US09382228B2
A solution of N-(5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyrazin-2-yl)acetamide (0.38 g, 1.22 mmol) in THF (10 mL) was treated with aqueous HCl (2 M, 6.12 mL, 12.24 mmol) and the solution was stirred at 60° C. for 4 h. The solvent was evaporated and the crude residue was diluted with water (40 mL), basified with solid NaHCO3, and extracted with EtOAc (2×30 mL). The combined organics were washed with brine, dried (Na2SO4) and concentrated to afford 5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyrazin-2-amine (0.32 g, 97%) as a white foam. 1H NMR (400 MHz, DMSO-d6): δ 8.34 (d, J=5.7 Hz, 1H), 8.25 (s, 1H), 7.95 (d, J=0.7 Hz, 1H), 7.91 (d, J=1.4 Hz, 1H), 7.61 (d, J=1.4 Hz, 1H), 7.21 (d, J=2.4 Hz, 1H), 6.69 (dd, J=5.7, 2.4 Hz, 1H), 6.44 (s, 2H), 3.84 (s, 3H); MS (ESI) m/z: 269.1 (M+H+).

reactant | N-(5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyrazin-2-yl)acetamide | 1.22 mmol, 0.38 g | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1N=CC(=NC1)NC(C)=O | C15H14N6O2
reactant | HCl | 12.24 mmol, 2 M, 6.12 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyrazin-2-amine | 0.32 g, 97% | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1N=CC(=NC1)N | C13H12N6O
